US04235620
2,2-Dimethyl-5-phenylpent-4-ene-3-one (9.48 g) in carbon tetrachloride (60 ml) was treated dropwise with bromine (8.0 g). The solution was evaporated in a vacuum and the pale yellow residue of 4,5-dibromo-2,2-dimethyl-5-phenylpentan-3-one (12.6 g) collected. The dibromo compound so prepared (6.96 g) was dissolved in dry dimethylformamide (20 ml) and added dropwise to a mixture obtained by adding 1,2,4-triazole (2.76 g) to a suspension of sodium hydride (1.92 of 50% dispersion in mineral oil, washed free of oil with dry petrol) in dimethylformamide (10 ml). The resulting mixture was heated on a steambath for 15 minutes and poured into cold water (200 ml). The mixture was extracted with ether and the ether extracts dried and evaporated to give a pale yellow oil. This oil crystallised from petrol to give 2,2-dimethyl-5-phenyl-5-(1,2,4-triazol-1-yl)pent-4-en-3-one (compound no. 1 of Table I) having a melting point of 70°- 73° C.

reactant | 2,2-Dimethyl-5-phenylpent-4-ene-3-one | 9.48 g | CC(C)(C(C=CC1=CC=CC=C1)=O)C | C13H16O
reactant | bromine | 8.0 g | BrBr | Br2
reactant | 1,2,4-triazole | 2.76 g | N1N=CN=C1 | C2H3N3
reactant | sodium hydride | [H-].[Na+]
solvent | carbon tetrachloride | 60 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | 2,2-dimethyl-5-phenyl-5-(1,2,4-triazol-1-yl)pent-4-en-3-one | CC(C)(C(C=C(N1N=CN=C1)C1=CC=CC=C1)=O)C | C15H17N3O
